US06977262B2
4-(2-Bromo-3-cyanophenyl)-5-cyano-6-cyclopropyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine 1/4 acetonitrile
The title compound was prepared from methyl cyclopropanecarboxylate, 2-bromo-3-cyanobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | methyl cyclopropanecarboxylate | C1(CC1)C(=O)OC | C5H8O2
reactant | 2-bromo-3-cyanobenzaldehyde | BrC1=C(C=O)C=CC=C1C#N | C8H4BrNO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 4-(2-Bromo-3-cyanophenyl)-5-cyano-6-cyclopropyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | BrC1=C(C=CC=C1C#N)C1C=2C(NC(=C1C#N)C1CC1)=NNC2 | C17H12BrN5
